US08445507B2
5-isothiocyanato-3-(trifluoromethyl)pyridine-2-carbonitrile, 9, A is reacted with 4-(1-cyanocyclobutylamino)-2-fluoro-N-methylbenzamide B in DMF solution by heating in a microwave at 80° C. for 20 hours. Methanol and hydrochloric acid are then added and the reaction allowed to proceed for 2 hours to produce 4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)-2-fluoro-N-methylbenzamide, A52 (yield 35 to 87%).

reactant | 5-isothiocyanato-3-(trifluoromethyl)pyridine-2-carbonitrile | N(=C=S)C=1C=C(C(=NC1)C#N)C(F)(F)F | C8H2F3N3S
reactant | 4-(1-cyanocyclobutylamino)-2-fluoro-N-methylbenzamide | C(#N)C1(CCC1)NC1=CC(=C(C(=O)NC)C=C1)F | C13H14FN3O
reactant | Methanol | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)-2-fluoro-N-methylbenzamide | yield 35 to 87% | C(#N)C1=C(C=C(C=N1)N1C(N(C2(CCC2)C1=O)C1=CC(=C(C(=O)NC)C=C1)F)=S)C(F)(F)F | C21H15F4N5O2S
